US07364825B2
1-(2,3-Epoxypropyl)-Indole-3-Carbaldehyde
Indole-3-carbaldehyde (5 g, 0.034 mol) was dissolved in epichlorohydrin (55 g, available from Aldrich, Milwaukee, Wis.) under mild heating. Potassium hydroxide (KOH, 4.2 g, 0.076 mol) was added to the reaction mixture in three even portions. Additionally, sodium sulphate (Na2SO4, 0.7 g) was added before every addition of KOH into the flask. After stirred for 5 hours at 50° C., the reaction mixture was filtered and epichlorohydrin was removed by vacuum distillation from the filtrate. Then the product was recrystallized from a mixture of acetone and diethyl ether in a volume ratio of 1:1 to form white crystals which were washed with diethyl ether. The yield of the product was 73% (5 g). A 1H-NMR spectrum (100 MHz) of the product in CDCl3 was characterized by the following chemical shifts (δ, ppm): 9.97 (s, 1H, CHO), 8.4-8.2 (m, 1H, 2-HHt), 7.38 (s, 1H, 4-HHt), 7.5-7.2 (m, 3H, 5, 6, 7-HHt), 4.65-4.42(dd, 1H, one of NCH2 protons, (HA), JAX=2.4 Hz, JAB=15.2 Hz), 4.2-3.95 (dd, 1H, another NCH2 proton, (HB), JBX=5.7 Hz,), 3.31 (m, 1H, CHO), 2.83 (t, one of OCH2 protons, (HB), JBX=4.4 Hz,) 2.51-2.4 (dd, 1H, CH2O another proton, (HA), JAX=2.4 Hz, JAB=4.6 Hz). An infrared absorption spectrum of the product was characterized by the following absorption wave numbers (KBr windows, in cm−1): ν (arene C—H) 3098, 3045; ν (CH) 2924, 2805, 2752, 2762; ν (CHO) 1646; ν (C═C in Ar) 1536, 1471, γ(Ar) 750. A mass spectrum of the product was characterized by the following ions (in m/z): 202 (100%, M+1).

reactant | Indole-3-carbaldehyde | 0.034 mol, 5 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | Potassium hydroxide | 0.076 mol, 4.2 g | [OH-].[K+]
reactant | sodium sulphate | 0.7 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | epichlorohydrin | 55 g | C(Cl)C1CO1 | C3H5ClO
product | 1-(2,3-Epoxypropyl)-Indole-3-Carbaldehyde | O1C(CN2C=C(C3=CC=CC=C23)C=O)C1 | C12H11NO2
